US07199147B2
Tin dichloride (12.24 g, 54.2 mmol) was added to a solution of 2,3-dimethyl-4-nitrobenzonitrile (2.73 g, 15.5 mmol) in ethanol (94 ml) at room temperature, and the reaction was carried out for 5 hours under reflux conditions. After cooling, the reaction mixture was concentrated, and the resulting residue was diluted with ethyl acetate and then washed with a saturated aqueous sodium hydrogencarbonate solution. After the insoluble material was filtered off, the filtrate was separated and the organic layer was washed with a saturated aqueous sodium chloride solution. The organic layer was dried over magnesium sulfate and distilled to remove the solvent, whereby 4-amino-2,3-dimethylbenzonitrile (2.12 g, 93.6%) was obtained.

reactant | Tin dichloride | 54.2 mmol, 12.24 g | [Sn](Cl)Cl
reactant | 2,3-dimethyl-4-nitrobenzonitrile | 15.5 mmol, 2.73 g | CC1=C(C#N)C=CC(=C1C)[N+](=O)[O-] | C9H8N2O2
solvent | ethanol | 94 ml | C(C)O | C2H6O
product | 4-amino-2,3-dimethylbenzonitrile | 2.12 g, 93.6% | NC1=C(C(=C(C#N)C=C1)C)C | C9H10N2
